US07183276B2
A mixture of 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]-N-[4-(diethylphosphonomethyl)phenyl]propionamide (0.40 g), imidazole (0.20 g), potassium carbonate (0.41 g) and N,N-dimethylformamide (5 ml) was stirred at 120° C. for 2 hrs. The reaction mixture was poured into water, and the precipitated crystals were collected by filtration through a glass filter. The obtained crystals were washed with water and dried by ventilation. Recrystallization from acetone-isopropyl ether gave 3-[4-(4-chlorophenyl)-2-(1-imidazolyl)-5-oxazolyl]-N-[4-(diethylphosphonomethyl)phenyl]propionamide as pale-yellow prism crystals (0.33 g, 78%). melting point: 196–197° C.

reactant | 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]-N-[4-(diethylphosphonomethyl)phenyl]propionamide | 0.40 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)NC1=CC=C(C=C1)CP(=O)(OCC)OCC | C23H25Cl2N2O5P
reactant | imidazole | 0.20 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[4-(4-chlorophenyl)-2-(1-imidazolyl)-5-oxazolyl]-N-[4-(diethylphosphonomethyl)phenyl]propionamide | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)NC1=CC=C(C=C1)CP(=O)(OCC)OCC)N1C=NC=C1 | C26H28ClN4O5P
